US08349885B2
Preparation 29: Synthesis of 7-(tetrahydro-pyran-4-ylamino)-1H-indole-2-carboxylic acid
Ethyl 7-nitroindole-2-carboxylate (2.5 g, 10.7 mmol) was dissolved in methanol (50 ml). 10% Pd/C (200 mg) was added, and the mixture was stirred for 1 h under hydrogen gas. The mixture was filtered though celite, and the filtrate was distilled under reduced pressure. The distillate was dissolved 1,2-dichloroethane (50 ml), and tetrahydro-4H-pyran-4-one (1.3 ml, 12.8 mmol) and sodium triacetoxyborohydride (3.4 g, 16.1 mmol) were added. The mixture was stirred for 8 h at room temperature. After completion of the reaction, water was added. The mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled under reduced pressure and concentrated. The residue was purified by column chromatography. Thus obtained compound was dissolved in methanol (50 ml) and tetrahydrofuran (50 ml), 1N-sodium hydroxide (43 ml, 42.8 mmol) was added, and the mixture was stirred for 8 h at room temperature. 1N-hydrochloric acid solution was added, and the mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled under reduced pressure to give the title compound (2.1 g, Yield 76%).

reactant | Ethyl 7-nitroindole-2-carboxylate | 10.7 mmol, 2.5 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10N2O4
reactant | tetrahydro-4H-pyran-4-one | 12.8 mmol, 1.3 ml | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 16.1 mmol, 3.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 42.8 mmol, 43 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 7-(tetrahydro-pyran-4-ylamino)-1H-indole-2-carboxylic acid | 2.1 g, Yield 76% | O1CCC(CC1)NC=1C=CC=C2C=C(NC12)C(=O)O | C14H16N2O3
